US09062048B2
Step A: 1-(2-amino-5-iodophenyl)ethanone
Into a 250 mL round-bottom flask, was placed a solution of 1-(2-aminophenyl)ethanone (11 g, 81.48 mmol, 1.00 equiv) in 1N HCl (300 mL). This was followed by the addition of a solution of ICl (14.5 g, 89.51 mmol, 1.10 equiv) in 2N HCl (50 mL) dropwise with stirring at 0° C. The reaction mixture was stirred for 2 h at room temperature in a water/ice bath. The solid were collected by filtration and then washed with 200 mL of ethyl acetate: MeOH (10:1). The title compound was obtained as a brown solid.

reactant | 1-(2-aminophenyl)ethanone | 81.48 mmol, 11 g, 1.00 equiv | NC1=C(C=CC=C1)C(C)=O | C8H9NO
reactant | ICl | 89.51 mmol, 14.5 g, 1.10 equiv | ICl | ClI
solvent | HCl | 1N, 300 mL | Cl | ClH
solvent | HCl | 2N, 50 mL | Cl | ClH
product | 1-(2-amino-5-iodophenyl)ethanone | NC1=C(C=C(C=C1)I)C(C)=O | C8H8INO
